US06008243
According to the procedure described in Example 13 for the preparation of 2-acetoxy-1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(biphenyl-4-yl-1H-pyrrol-3-yl)-ethanone, 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(2-biphenyl-4-yl-furan-5-yl)-2-hydroxy-ethanone was acylated to furnish in quantitative yield 2-acetoxy-1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(2-biphenyl-4-yl-furan-5-yl)-ethanone as an off white solid, mp 120-8° C., which was used without further purification. 1H NMR: δ 7.75 (d, 2H, J=8.5 Hz), 7.66-7.62 (m, 4H), 7.46 (t, 2H, J=7.4 Hz), 7.39-7.22 (m, 6H), 6.70 (d, 1H, J=3.7 Hz), 6.62 (d, 1H, J=3.3 Hz), 6.39 (s, 1H), 3.86-3.79 (m, 2H), 3.64-3.60 (m, 1H), 3.39 (d, 1H, J=14.0 Hz), 2.96 (dd, 1H, J=11.4, 14.0 Hz), 2.25 (s, 3H), 1.78 (s, 3H). Anal. Calculated for C32H31NO5 : C, 75.42; H, 6.13; N, 2.75. Found: C, 75.27; H, 6.22; N, 2.65.

reactant | 2-acetoxy-1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(biphenyl-4-yl-1H-pyrrol-3-yl)-ethanone | C(C)(=O)OC(C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)(C)C)C1=CN(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C32H32N2O4
reactant | 1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(2-biphenyl-4-yl-furan-5-yl)-2-hydroxy-ethanone | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)(C)C)C(C(O)C1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C30H29NO4
product | 2-acetoxy-1-(4(S)-benzyl-2,2-dimethyl-oxazolidin-3-yl)-2-(2-biphenyl-4-yl-furan-5-yl)-ethanone | quantitative yield | C(C)(=O)OC(C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)(C)C)C1=CC=C(O1)C1=CC=C(C=C1)C1=CC=CC=C1 | C32H31NO5
